US04127660
3-Benzyl-6-hydroxy-6-phenyl-3,4,6,7-tetrahydro-2H-thiazolo-[3,2-a]-s-triazine
A solution of 5.0 grams (0.025 moles) of phenacyl bromide in 40 milliliters of acetone was mixed with a solution of 5.2 grams (0.025 moles) of 5-benzyl-3,4,5,6-tetrahydro-s-triazine-2(1H)-thione in 1200 milliliters of the same solvent and left for 2 hours at room temperature. The solution was then concentrated to 300 milliliters and left overnight. 3-Benzyl-6-hydroxy-6-phenyl-3,4,6,7-tetrahydro-2H-thiazolo[3,2-a]-s-triazine hydrobromide acetonate crystallized as a pale brown solid, m.p. 97°-99° C. The yield was 9.5 grams (82%).

reactant | phenacyl bromide | 0.025 moles, 5.0 grams | C(C(=O)C1=CC=CC=C1)Br | C8H7BrO
reactant | 5-benzyl-3,4,5,6-tetrahydro-s-triazine-2(1H)-thione | 0.025 moles, 5.2 grams | C(C1=CC=CC=C1)N1CNC(NC1)=S | C10H13N3S
solvent | acetone | 40 milliliters | CC(=O)C | C3H6O
product | 3-Benzyl-6-hydroxy-6-phenyl-3,4,6,7-tetrahydro-2H-thiazolo-[3,2-a]-s-triazine | C(C1=CC=CC=C1)N1CN=C2N(C1)C(CS2)(C2=CC=CC=C2)O | C18H19N3OS
